US07576215B2
[4-(4-CHLOROPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PYRIDIN-2-YL)METHANONE
This compound was prepared using the procedure of Example 1, step 5 using (4-chloro-8-trifluoromethyl-quinolin-3-yl)-pyridin-2-yl-methanone in place of [4-chloro-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and 4-chlorophenylboronic acid in place of phenyl boronic acid; MS (ESI) m/z 413/415 ([M+H]+); Anal. Calcd for C22H12ClF3N2O: C, 64.01; H, 2.93; N, 6.79. Found: C, 63.66; H, 3.03; N, 6.60.

reactant | (4-chloro-8-trifluoromethyl-quinolin-3-yl)-pyridin-2-yl-methanone | ClC1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=NC=CC=C1 | C16H8ClF3N2O
reactant | 4-chlorophenylboronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
product | [4-(4-CHLOROPHENYL)-8-(TRIFLUOROMETHYL)QUINOLIN-3-YL](PYRIDIN-2-YL)METHANONE | ClC1=CC=C(C=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=NC=CC=C1 | C22H12ClF3N2O
